### PR TITLE
[Merged by Bors] - feat(RingTheory/Artinian): the collection of maximal ideals in an artinian ring is finite

### PR DESCRIPTION
**Pull request by jjaassoonn**
Co-PR: #9088 (minimal prime ideals in Noetherian ring are finite)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Artinian.lean [hunk 1]
```diff
@@ -498,4 +498,31 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
       localization_surjective (nonZeroDivisors (R ⧸ p)) (FractionRing (R ⧸ p))⟩).isField _
     <| Field.toIsField <| FractionRing (R ⧸ p)
 
+open BigOperators in
+/--
+[Stacks Lemma 00J7](https://stacks.math.columbia.edu/tag/00J7)
+-/
+lemma maximal_ideals_finite : (setOf <| Ideal.IsMaximal (α := R)).Finite := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Artinian.lean:505]: Several comments:

`setOf` is usually written `{I : Ideal R // I.IsMaximal}`.

In an artinian ring, all primes are maximal, so you can have a `I.IsPrime` version as well.

In an artinian ring (which is also noetherian), all primes are also minimal, so you can use #9088 to prove this.

Comment (jjaassoonn) [reply Mathlib/RingTheory/Artinian.lean:505]: My plan of proving minimal primes = maximal primes in artinian ring is to prove artinian rings are 0-dimensional noetherian ring

Comment (alreadydone) [reply Mathlib/RingTheory/Artinian.lean:505]: Okay, it seems the proof of artinian -> noetherian is complicated and uses the result you're proving here, so using #9088 to prove this is probably circular. But the [proof that all primes are maximal](https://math.stackexchange.com/a/27147/12932) (and hence all are minimal) is at least easy.

Comment (jjaassoonn) [reply Mathlib/RingTheory/Artinian.lean:505]: In the dimension theory branch, it is already proved that artinian rings are 0-dimensional and prime ideals of zero dimensional ring are maximal.

Comment (alreadydone) [reply Mathlib/RingTheory/Artinian.lean:505]: Actually the result is already in mathlia as [IsArtinianRing.isMaximal_of_isPrime](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Artinian.html#IsArtinianRing.isMaximal_of_isPrime) via #6309 and #6676 ... We've forgotten about our own PRs!

Comment (jjaassoonn) [reply Mathlib/RingTheory/Artinian.lean:505]: And it's literally the lemma above this one. 🤣

Comment (alreadydone) [reply Mathlib/RingTheory/Artinian.lean:505]: Back to the proof. I think it would be slightly easier to use [IsArtinian.set_has_minimal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Artinian.html#IsArtinian.set_has_minimal) and intersections ([Finset.inf](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/Lattice.html#Finset.inf)) rather than products. You can consider all finite intersections of primes and there will be a minimal one. Any prime must contain one of the finitely many primes occuring in the minimal one, and hence equal to it by the previous lemma.

BTW I don't understand why [Ideal.IsPrime.inf_le'](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Operations.html#Ideal.IsPrime.inf_le') and prod_le require `s` nonempty. When `s` is empty both sides are false so they should still hold. (Will submit a PR unless you beat me.)

Comment (jjaassoonn) [reply Mathlib/RingTheory/Artinian.lean]: I have changed to your version and removed nonempty hypothesis from `Ideal.IsPrime.inf_le`. Thanks for the proof!

File: Mathlib/RingTheory/Artinian.lean [hunk 2]
```diff
@@ -498,4 +498,26 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
       localization_surjective (nonZeroDivisors (R ⧸ p)) (FractionRing (R ⧸ p))⟩).isField _
     <| Field.toIsField <| FractionRing (R ⧸ p)
 
+variable (R) in
+lemma prime_spectrum_finite : {I : Ideal R | I.IsPrime}.Finite := by
+  let Spec := {I : Ideal R | I.IsPrime}
+  obtain ⟨_, ⟨s, rfl⟩, H⟩ := set_has_minimal
+    (range <| (Finset.inf · (fun x ↦ x.1) : Finset Spec → Ideal R)) ⟨⊤, ⟨∅, by simp⟩⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/Artinian.lean:505]:
```suggestion
    (range (Finset.inf · Subtype.val : Finset Spec → Ideal R)) ⟨⊤, ∅, by simp⟩
```
(untested)

File: Mathlib/RingTheory/Artinian.lean [hunk 3]
```diff
@@ -498,4 +498,26 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+  refine ⟨⟨s, fun p ↦ ?_⟩⟩
+  obtain ⟨q, ⟨hq1, hq2⟩⟩ : ∃ q ∈ s, q ≤ p
```
Comment (alreadydone) [inline Mathlib/RingTheory/Artinian.lean:507]:
```suggestion
  obtain ⟨q, hq1, hq2⟩ : ∃ q ∈ s, q ≤ p
```

File: Mathlib/RingTheory/Artinian.lean [hunk 4]
```diff
@@ -498,4 +498,26 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+  · classical
+    specialize H (p ⊓ s.inf fun x ↦ x.1) ⟨insert p s, by simp⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/Artinian.lean:509]: Does this not work?
```suggestion
    specialize H p ⟨{p}, by simp⟩
```

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 5]
```diff
@@ -1135,10 +1135,11 @@ theorem IsPrime.prod_le {s : Finset ι} {f : ι → Ideal R} {P : Ideal R} (hp :
...
 
-theorem IsPrime.inf_le' {s : Finset ι} {f : ι → Ideal R} {P : Ideal R} (hp : IsPrime P)
-    (hsne : s.Nonempty) : s.inf f ≤ P ↔ ∃ i ∈ s, f i ≤ P :=
-  ⟨fun h => (hp.prod_le hsne).1 <| le_trans prod_le_inf h, fun ⟨_, his, hip⟩ =>
-    le_trans (Finset.inf_le his) hip⟩
+theorem IsPrime.inf_le' {s : Finset ι} {f : ι → Ideal R} {P : Ideal R} (hp : IsPrime P) :
+    s.inf f ≤ P ↔ ∃ i ∈ s, f i ≤ P :=
+  s.eq_empty_or_nonempty.elim (by rintro rfl; simpa using hp.1) <| fun hsne =>
+    ⟨fun h => (hp.prod_le hsne).1 <| le_trans prod_le_inf h, fun ⟨_, his, hip⟩ =>
+      le_trans (Finset.inf_le his) hip⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/Ideal/Operations.lean:1142]: We should just remove the condition from [Ideal.IsPrime.multiset_prod_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Operations.html#Ideal.IsPrime.multiset_prod_le). The same method should work since the empty product is also 1 = ⊤.

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 6]
```diff
@@ -1233,10 +1234,10 @@ theorem subset_union_prime' {R : Type u} [CommRing R] {s : Finset ι} {f : ι 
     by_cases Hi : I ≤ f i
     · exact Or.inr (Or.inr ⟨i, Finset.mem_insert_self i t, Hi⟩)
     have : ¬I ⊓ f a ⊓ f b ⊓ t.inf f ≤ f i := by
-      rcases t.eq_empty_or_nonempty with (rfl | hsne)
+      rcases t.eq_empty_or_nonempty with (rfl | -)
       · rw [Finset.inf_empty, inf_top_eq, hp.1.inf_le, hp.1.inf_le, not_or, not_or]
         exact ⟨⟨Hi, Ha⟩, Hb⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/Ideal/Operations.lean:1239]: You could just remove these three lines I suppose?

**Review by alreadydone — COMMENTED** [review]
Thanks!

File: Mathlib/RingTheory/Ideal/Operations.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/RingTheory/Ideal/Operations.lean:1142]: #9115

File: Mathlib/RingTheory/Artinian.lean (hunk 4 above)
Comment (jjaassoonn) [reply Mathlib/RingTheory/Artinian.lean]: I think its easier to use `p ⊓ ⨅ s`, because it is guaranteed to be smaller than or equal to the right hand side, so more lemmas can be applied

File: Mathlib/RingTheory/Artinian.lean [hunk 7]
```diff
@@ -498,4 +498,26 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+  let Spec := {I : Ideal R | I.IsPrime}
+  obtain ⟨_, ⟨s, rfl⟩, H⟩ := set_has_minimal
+    (range (Finset.inf · Subtype.val : Finset Spec → Ideal R)) ⟨⊤, ∅, by simp⟩
+  refine ⟨⟨s, fun p ↦ ?_⟩⟩
+  obtain ⟨q, hq1, hq2⟩ : ∃ q ∈ s, q ≤ p
+  · classical
+    simpa only [mem_setOf_eq, coe_setOf, ge_iff_le, Finset.le_inf_iff, Subtype.coe_le_coe,
+      Subtype.forall, inf_lt_right, not_not, Ideal.IsPrime.inf_le' (hp := p.2)]
+      using H (p ⊓ s.inf Subtype.val) ⟨insert p s, by simp⟩
+  rwa [← Subtype.ext_iff.mpr <| @isMaximal_of_isPrime (p := q.1) _ _ q.2 |>.eq_of_le p.2.1 hq2]
```
Comment (alreadydone) [inline Mathlib/RingTheory/Artinian.lean:512]: You're right, {p} doesn't quite work. Here's a slight golf:
```suggestion
  set Spec := {I : Ideal R | I.IsPrime}
  obtain ⟨_, ⟨s, rfl⟩, H⟩ := set_has_minimal
    (range (Finset.inf · Subtype.val : Finset Spec → Ideal R)) ⟨⊤, ∅, by simp⟩
  refine ⟨⟨s, fun p ↦ ?_⟩⟩
  classical
  obtain ⟨q, hq1, hq2⟩ := p.2.inf_le'.mp <| inf_eq_right.mp <|
    inf_le_right.eq_of_not_lt (H (p ⊓ s.inf Subtype.val) ⟨insert p s, by simp⟩)
  rwa [← Subtype.ext <| (@isMaximal_of_isPrime _ _ _ _ q.2).eq_of_le p.2.1 hq2]
```

**Review by alreadydone — APPROVED** [review]

File: Mathlib/RingTheory/Artinian.lean [hunk 8]
```diff
@@ -498,4 +498,26 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+
+variable (R) in
+/--
+[Stacks Lemma 00J7](https://stacks.math.columbia.edu/tag/00J7)
+-/
+lemma maximal_ideals_finite : {I : Ideal R | I.IsMaximal}.Finite := by
+  convert prime_spectrum_finite R using 3
+  exact ⟨Ideal.IsMaximal.isPrime, fun h => isMaximal_of_isPrime _⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/Artinian.lean:520]: maybe add a isPrime_iff_isMaximal lemma for artinian rings.

Comment (jjaassoonn) [reply Mathlib/RingTheory/Artinian.lean]: done

File: Mathlib/RingTheory/Artinian.lean [hunk 9]
```diff
@@ -498,4 +498,27 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
       localization_surjective (nonZeroDivisors (R ⧸ p)) (FractionRing (R ⧸ p))⟩).isField _
     <| Field.toIsField <| FractionRing (R ⧸ p)
 
+lemma isPrime_iff_isMaximal (p : Ideal R) : p.IsPrime ↔ p.IsMaximal :=
+⟨fun h ↦ isMaximal_of_isPrime p, fun h ↦ h.isPrime⟩
```
Comment (alreadydone) [inline Mathlib/RingTheory/Artinian.lean:502]:
```suggestion
  ⟨fun _ ↦ isMaximal_of_isPrime p, fun h ↦ h.isPrime⟩
```

File: Mathlib/RingTheory/Artinian.lean [hunk 10]
```diff
@@ -498,4 +498,27 @@ instance isMaximal_of_isPrime (p : Ideal R) [p.IsPrime] : p.IsMaximal :=
...
+  classical
+  obtain ⟨q, hq1, hq2⟩ := p.2.inf_le'.mp <| inf_eq_right.mp <|
+    inf_le_right.eq_of_not_lt (H (p ⊓ s.inf Subtype.val) ⟨insert p s, by simp⟩)
+  rwa [← Subtype.ext <| (@isMaximal_of_isPrime _ _ _ _ q.2).eq_of_le p.2.1 hq2]
+
+variable (R) in
+/--
+[Stacks Lemma 00J7](https://stacks.math.columbia.edu/tag/00J7)
+-/
+lemma maximal_ideals_finite : {I : Ideal R | I.IsMaximal}.Finite := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Artinian.lean:519]: I'd personally name it as `setOf_isMaximal_finite` but I think this is also acceptable.

**Review by alreadydone — APPROVED** [review]
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
